US05230827
0.1 mol of 2,3-difluoro-4-ethoxybenzoic acid (preparable from 2,3-difluorophenol by alkylation using diethyl sulfate/potassium carbonate in dimethylformamide, metallation of the 2,3-difluorophenetole in the 4-position using butyllithium/tetramethylethylenediamine in tetrahydrofuran (THF) at -70° to -80° and reaction with solid carbon dioxide), 0.01 mol of 4-dimethylaminopyridine and 0.1 mol of trans-4-propylcyclohexanol are initially introduced in 150 ml of dichloromethane, a solution of 0.1 mol of dicyclohexylcarbodiimide in 30 ml of dichloromethane is added dropwise at 10° with stirring, and the mixture is subsequently stirred at room temperature for 15 hours. The mixture is filtered through silica gel with suction, the solvent is evaporated, and trans-4-propylcyclohexyl 2,3-difluoro-4-ethoxybenzoate is obtained as a residue and is purified by crystallization. Mp. 93°, cp. (48°).

reactant | 2,3-difluoro-4-ethoxybenzoic acid | 0.1 mol | FC1=C(C(=O)O)C=CC(=C1F)OCC | C9H8F2O3
reactant | 2,3-difluorophenol | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | diethyl sulfate potassium carbonate | S(=O)(=O)(OCC)OCC.C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-difluorophenetole | FC1=C(C=CC=C1F)OCC | C8H8F2O
reactant | butyllithium tetramethylethylenediamine | C(CCC)[Li].CN(CCN(C)C)C
reactant | carbon dioxide | C(=O)=O | CO2
reactant | trans-4-propylcyclohexanol | 0.1 mol | C(CC)[C@@H]1CC[C@H](CC1)O | C9H18O
reactant | dicyclohexylcarbodiimide | 0.1 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.01 mol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | trans-4-propylcyclohexyl 2,3-difluoro-4-ethoxybenzoate | FC1=C(C(=O)O[C@@H]2CC[C@H](CC2)CCC)C=CC(=C1F)OCC | C18H24F2O3
